US05362742
A solution of boron tribromide in dichloromethane (1:2, 1 ml) was added to a solution of 4-(2-chlorophenyl)-3-(3,4-dimethoxycinnamoylamino)-6,8-dimethylquinoline (473 mg) in dichloromethane (5 ml) under ice-cooling. After being stirred for 20 minutes under ice-cooling, and further for 30 minutes at room temperature, the mixture was poured into ice water. The solution was made neutral with a sodium hydrogen carbonate saturated solution and was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was removed, and the residue was crystallized to give crystals of 4-(2-chlorophenyl)-3-(3,4-dihydroxycinnamoylamino)-6,7-dimethylquinoline (212 mg, 44.8%). The crystals were recrystallized from acetone to obtain yellowish prisms (1/2 acetone solvate).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-(2-chlorophenyl)-3-(3,4-dimethoxycinnamoylamino)-6,8-dimethylquinoline | 473 mg | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(C=CC1=CC(=C(C=C1)OC)OC)=O | C28H25ClN2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(2-chlorophenyl)-3-(3,4-dihydroxycinnamoylamino)-6,7-dimethylquinoline | 212 mg, 44.8% | ClC1=C(C=CC=C1)C1=C(C=NC2=CC(=C(C=C12)C)C)NC(C=CC1=CC(=C(C=C1)O)O)=O | C26H21ClN2O3
